US06864265B2
2-(2-Chloroethyl)-1H-benzimidazole
A mixture of 1,2-Phenylenediamine (1.3 g, 12.0 mmol) and 3-chloropropionic acid (2.0 g, 18.5 mmol) were refluxed in 4N HCl (13 mL) for 16 hours to give the title compound as white solid (700 mg, 32%). 1H NMR (CD3OD) □3.35 (t, 2H, J=6.8 Hz), 4.00 (t, 2H, J=6.8 Hz), 7.18-7.25 (m, 2H), 7.49-7.55 (m, 2H); ES-MS m/z 181.0 (M+H).

reactant | 1,2-Phenylenediamine | 12.0 mmol, 1.3 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 3-chloropropionic acid | 18.5 mmol, 2.0 g | ClCCC(=O)O | C3H5ClO2
solvent | HCl | 4N, 13 mL | Cl | ClH
product | 2-(2-Chloroethyl)-1H-benzimidazole | 700 mg, 32% | ClCCC1=NC2=C(N1)C=CC=C2 | C9H9ClN2
